US05578620
3-(4-phenylbutoxy)-2-hydroxypropylazide
A procedure similar to that described in Preparation 12 was repeated, except that 3.70 g of 4-phenylbutoxymethyloxirane (prepared as described in Preparation 58), 5.83 g of sodium azide, 37 ml of methyl formate and 135 ml of an 8:1 by volume mixture of methanol and water were used, to give 4.46 g of the title compound as a colorless oil having an Rf value of 0.67 (on silica gel thin layer chromatography, using a 2:1 by volume mixture of hexane and ethyl acetate as the developing solvent).

reactant | 4-phenylbutoxymethyloxirane | 3.70 g | C1(=CC=CC=C1)CCCCOCC1OC1 | C13H18O2
reactant | sodium azide | 5.83 g | [N-]=[N+]=[N-].[Na+]
reactant | methyl formate | 37 ml | C(=O)OC | C2H4O2
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 3-(4-phenylbutoxy)-2-hydroxypropylazide | 4.46 g | C1(=CC=CC=C1)CCCCOCC(CN=[N+]=[N-])O | C13H19N3O2
